US04684639
(c) N-Benzyloxycarbonyl 2-chloro-4,5-diacetoxyphenylglycine
N-Benzyloxycarbonyl 2-chloro-4,5-dihydroxyphenylglycine (1.76 g, 5 mmole) in water (30 ml) and THF (20 ml) was adjusted to pH 7.5 with saturated sodium carbonate solution. Acetic anhydride (1.2 ml) was added and pH 6.5 maintained with saturated sodium carbonate solution, after 15 minutes and again after a further 15 minutes more acetic anhydride (0.6 ml) was added. After another 15 minutes the solution was washed with ether (2×25 ml), acidified to pH 2.5 and extracted with ethyl acetate (3×30 ml). The extracts were washed with water (2×25 ml) and brine (20 ml) dried and evaporated to a foam, 1.87 g 86%, δ[(CD3)2CO] 2.20(6H, s, 2×OCOCH3), 5.03(2H, s, OCH2), 5.80(1H, d, J8 Hz, CHNH), 7.12(1H, d, J8 Hz, CHNH), 7.23(5H, s, Ph), 7.33 and 7.35(2H, 2×s, Ar), 9.57(1H, s, CO2H).

reactant | N-Benzyloxycarbonyl 2-chloro-4,5-dihydroxyphenylglycine | 5 mmole, 1.76 g | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)C1=C(C=C(C(=C1)O)O)Cl | C16H14ClNO6
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | Acetic anhydride | 1.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | N-Benzyloxycarbonyl 2-chloro-4,5-diacetoxyphenylglycine | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)C1=C(C=C(C(=C1)OC(C)=O)OC(C)=O)Cl | C20H18ClNO8
